US07122580B2
The (2S)-(2-Amino-5-chloro-benzoylamino)-3-(4-bromo-phenyl)-propionic acid methyl ester (0.400 g, 0.972 mmol) was made according to the procedure for Example 282 and this was subjected to reductive amination with naphthalene-2-carbaldehyde (0.227 g, 1.45 mmol) and sodium triacetoxyborohydride (0.515 g, 2.43 mmol) as per general procedure E to yield the 3-(4-Bromo-phenyl)-2-{5-chloro-2-[(naphthalen-2-ylmethyl)-amino]-benzoylamino}-propionic acid methyl ester (0.428 g, 80%).

reactant | (2S)-(2-Amino-5-chloro-benzoylamino)-3-(4-bromo-phenyl)-propionic acid methyl ester | 0.972 mmol, 0.400 g | COC([C@H](CC1=CC=C(C=C1)Br)NC(C1=C(C=CC(=C1)Cl)N)=O)=O | C17H16BrClN2O3
reactant | naphthalene-2-carbaldehyde | 1.45 mmol, 0.227 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium triacetoxyborohydride | 2.43 mmol, 0.515 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 3-(4-Bromo-phenyl)-2-{5-chloro-2-[(naphthalen-2-ylmethyl)-amino]-benzoylamino}-propionic acid methyl ester | 0.428 g, 80% | COC(C(CC1=CC=C(C=C1)Br)NC(C1=C(C=CC(=C1)Cl)NCC1=CC2=CC=CC=C2C=C1)=O)=O | C28H24BrClN2O3
